US07135475B2
N-{4-[3-cyclopropylmethyl-1-(2-fluorobenzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-N-methyl-2-pyridin-3-yl-acetamide
This compound was prepared by a method similar to that described in example 79 except that commercially available 3-pyridylacetic acid was used in place of N-acetyl-6-amino-2-pyridine carboxylic acid, the reaction was performed using 0.69 equivalents of 3-cyclopropylmethyl-8-[4-(methylamino)-benzyl]-1-(2-fluorobenzyl)-3,7-dihydropurine-2,6-dione and 0.78 equivalents of triethylamine was added as the final reagent to the reaction mixture. The product was purified by chromatography using silica gel eluted with 93:7 chloroform/methanol followed by crystallization from acetonitrile. MS, m/z(M+)=553.2364.

reactant | 3-pyridylacetic acid | N1=CC(=CC=C1)CC(=O)O | C7H7NO2
reactant | 3-cyclopropylmethyl-8-[4-(methylamino)-benzyl]-1-(2-fluorobenzyl)-3,7-dihydropurine-2,6-dione | 0.69 equivalents | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NC)=O)CC1=C(C=CC=C1)F)=O | C24H24FN5O2
reactant | triethylamine | 0.78 equivalents | C(C)N(CC)CC | C6H15N
product | N-{4-[3-cyclopropylmethyl-1-(2-fluorobenzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-N-methyl-2-pyridin-3-yl-acetamide | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)N(C(CC=1C=NC=CC1)=O)C)=O)CC1=C(C=CC=C1)F)=O | C31H29FN6O3
